US09303016B2
Synthesis of tert-butyl 5-cyano-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate, Intermediate-13
A 50 mL RB flask fitted with magnetic stirrer was charged with 5 mL of DCM and tert-butyl 5-carbamoyl-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate, Intermediate-11 (0.8 g, 2.8 mmol). Under N2 atm, triethyl amine (1.15 g, 11.4 mmol) and trifluoroacetic anhydride (2.4 g, 11.4 mmol) was added and stirred for 6 hr. After completion of the reaction (reaction was monitored by TLC), reaction mixture was quenched with KHSO4 solution and extracted with DCM (50 ml×3). The organic layer was washed with saturated sodium bi carbonate solution followed by brine solution. Finally the reaction mixture was dried over anhydrous sodium sulfate and concentrated to give crude Intermediate-13, which was subjected to column chromatogram (10% EtOAc in PE) as a off-white solid (0.5 g, yield=70%).

reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
reactant | tert-butyl 5-carbamoyl-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate | C(N)(=O)C12CC3N(C(CC(C1)C3)C2)C(=O)OC(C)(C)C | C15H24N2O3
reactant | triethyl amine | 11.4 mmol, 1.15 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 11.4 mmol, 2.4 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 5-cyano-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate | 0.5 g, yield=70% | C(#N)C12CC3N(C(CC(C1)C3)C2)C(=O)OC(C)(C)C | C15H22N2O2
